US06995157B2
A mixture of 3.64 g (17.4 mmol) of 6-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-3-one, 4.0 g of sodium m-nitrobenzene sulfonate (17.8 mmol), 6.0 g of 50% sodium hydroxide (75.2 mmol) and 160 mL of water were refluxed overnight. The reaction mixture was cooled, then 1N aqueous HCl was added until the pH was slightly acidic to paper. The product was filtered, washed with water and dried to give 3.0 g of 6-(4-chlorophenyl)-1,2,4-triazin-3-one, which was used without further purification.

reactant | 6-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-3-one | 17.4 mmol, 3.64 g | ClC1=CC=C(C=C1)C=1CNC(NN1)=O | C9H8ClN3O
reactant | sodium m-nitrobenzene sulfonate | 17.8 mmol, 4.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 75.2 mmol, 6.0 g | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 160 mL | O | H2O
product | 6-(4-chlorophenyl)-1,2,4-triazin-3-one | 3.0 g | ClC1=CC=C(C=C1)C=1C=NC(NN1)=O | C9H6ClN3O
